US05648370
a) 4-[2-Phenylethoxy]butene
To a solution of 4-[2-phenylethoxy]butanol (3.16 g) and 2-nitrophenyl selenocyanate (4.0 g) in THF (50 ml) under argon was added tributylphosphine (4.5 ml) in THF (2 ml) dropwise over 30 min. After a further 2 hours at room temperature the solvent was removed under reduced pressure. A further 50 ml of THF was added and the mixture cooled to 0° at which point H2O2 (17 ml, 30% aqueous v/v) was added to the stirred solution over 1 hour. The mixture was allowed to warm to room temperature and stirring continued overnight. The solvent was removed under reduced pressure and the residue taken up in ether, washed with 1 molar aqueous hydrochloric acid, sodium bicarbonate solution and brine. The solution was dried, filtered and the solvent removed under reduced pressure to yield a yellow oil which was purified by chromatography using diethyl ether in petroleum ether (bp 60°-80°) as eluant to yield the subtitled compound (2.63 g, 92%).

reactant | 4-[2-phenylethoxy]butanol | 3.16 g | C1(=CC=CC=C1)CCOCCCCO | C12H18O2
reactant | 2-nitrophenyl selenocyanate | 4.0 g | [N+](=O)([O-])C1=C(C=CC=C1)[Se]C#N | C7H4N2O2Se
reactant | tributylphosphine | 4.5 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-[2-Phenylethoxy]butene | 2.63 g, 92% | C1(=CC=CC=C1)CCOCCC=C | C12H16O
